data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_282927_1,[C:1]([N:3]([C:2]([H:10])([H:11])[H:12])[H:8])([O:4][H:7])([N:5]=[O:6])[H:9]>>[C:1](\[N:3]([C:2]([H:10])([H:11])[H:12])[H:9])([O:4][H:7])=[N:5]\[O:6][H:8],58.2163125000109
MR_683304_0,[C:1](/[C:4]([C:2]([C:3]([N:5]([H:11])[H:12])=[C:7]([H:18])[H:19])[O:8][H:10])=[C:6](/[N:9][H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[C:4](=[C:2]([C:6](=[N:9]/[H:13])\[H:14])/[O:8][H:10])[C:3]([N:5]([H:11])[H:12])=[C:7]([H:18])[H:19])([H:15])([H:16])[H:17],58.03810249996147
MR_128755_0,[C:1](/[C:2]([O:4][H:6])=[N:5]/[N:3]([H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1](=[C:2]([O:4][H:6])[N:5]([N:3]([H:7])[H:8])[H:11])([H:9])[H:10],65.47021249999489
MR_330527_1,[C:1](/[C:8](=[C:4]([C:3](=[C:2](/[N:5]([H:11])[H:12])[O:9][H:10])\[N:6]([H:13])[H:14])/[N:7]([H:15])[H:16])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C:8]1([H:17])[C:2]([N:5]([H:11])[H:12])([O:9][H:10])[C:3]([N:6]([H:13])[H:14])=[C:4]1[N:7]([H:15])[H:16])([H:18])([H:19])[H:20],40.01316499999177
MR_189360_1,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[N:7]\[C:2]([H:15])([H:16])[H:17])[H:8])([N:6]([H:11])[H:12])([H:13])[H:14]>>[C:1]([N:6]([H:11])[H:12])([N:7]([C:2]([H:15])([H:16])[H:17])/[C:4](=[N:3]/[H:8])[N:5]([H:9])[H:10])([H:13])[H:14],55.443390000020685
MR_96080_2,[C:1]([C:2]([O:6][H:9])([H:10])[H:11])([C:3]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:12])[O:5][H:8]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([O:5][H:8])[C:4]([C:2]([O:6][H:9])([H:10])[H:11])([H:12])[O:7]1,58.174897500008456
MR_61644_1,[C:1]([C:2]([N:6]([C:7]([C:5]([H:21])([H:22])[H:23])([N:8]([H:11])[H:12])[O:9][H:15])[H:10])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])=[C:4]([H:19])[H:20]>>[C:1]([C:2]([N:6]([C:7]([C:5]([H:21])([H:22])[H:23])=[O:9])[H:10])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[N:8]([H:11])[H:12],73.07425750002224
MR_73836_2,[C:1](/[C:2]([N:3]([H:6])[H:7])=[N:5]\[H:8])([N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1](/[C:2](=[N:5]/[H:8])[H:12])([N:3]([H:6])[H:7])([N:4]([H:9])[H:10])[H:11],73.20917000000264
MR_529251_0,[C:1]([N:2]([O:5][H:8])[H:10])([C:3]([O:6][H:9])=[O:7])([N:4]([H:12])[H:13])[H:11]>>[C:1]1([N:4]([H:12])[H:13])([H:11])[C:3]([N:2]([O:5][H:8])[H:10])([O:6][H:9])[O:7]1,44.87377999999012
MR_548757_0,[C:1](/[C:4]([N:3]([H:9])[H:12])=[C:5](\[C:2]([H:13])([H:14])[H:15])[O:7][H:8])(=[N:6]\[H:11])[H:10]>>[C:1]1([N:6]([H:11])[H:12])([H:10])[N:3]([H:9])/[C:4]1=[C:5](/[C:2]([H:13])([H:14])[H:15])[O:7][H:8],54.186507499983776
MR_639384_0,[C:1]([C:2]([N:4][N:3][C:6][N:5][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:2]1([H:8])[N:4][N:3]=[C:6]1[N:5][H:7])([H:9])([H:10])[H:11],50.13097499998594
MR_683350_0,[C:1]12([C:4]([H:17])([H:18])[H:19])[C:2]([H:12])([H:13])[N:5]([C:3]([H:14])([H:15])[H:16])[C:6]1([N:7]([H:9])[H:10])[N:8]2[H:11]>>[C:1]1([C:4]([H:17])([H:18])[H:19])(/[C:6]([N:7]([H:9])[H:10])=[N:8]\[H:11])[C:2]([H:12])([H:13])[N:5]1[C:3]([H:14])([H:15])[H:16],55.14219000003209
MR_207751_1,[C:1]12([H:8])[C:2]([H:9])([H:10])[C@@:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:11])[N:7]1[O:6]2>>[C:1]1([C:4](=[C:5]([H:13])[H:14])[H:12])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[N:7][O:6]1,36.74828249999521
MR_580957_0,[C:1]1([N:7]([H:12])[H:13])([H:9])[C:5]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])[C:8]1([H:20])[H:21]>>[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])([C:5]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])([N:7]([H:12])[H:13])[H:9],65.0466499999942
MR_577624_0,[C:1]([C:3](=[C:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([O:7][H:8])([H:15])[H:16]>>[C:1](=[C:3](/[C:2]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[H:16])[N:6]([H:13])[H:14])(\[O:7][H:8])[H:15],72.75485999997258
MR_79740_1,[C:1]([N:3]([N:4]([H:9])[H:10])/[C:5](=[N:7]/[C:2]([H:14])([H:15])[H:16])[H:13])([O:6][H:8])([H:11])[H:12]>>[C:1]([O:6][H:8])([N:7]([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:3]\[N:4]([H:9])[H:10])[H:13])([H:11])[H:12],65.94522999997267
MR_455362_0,[C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])([O:4][O:5][H:7])[N:6][H:8]>>[C:1](\[O:4][C:2](=[C:3]([H:10])[H:11])[H:9])([O:5][H:7])=[N:6]\[H:8],69.71336750001839
MR_604239_1,[C:1]([C:2](=[C:3]([H:10])[H:11])[O:4][H:7])([N:5]=[O:6])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([N:5]=[O:6])([H:10])[H:11])[O:4][H:7])([H:8])[H:9],25.46332250002294
MR_699440_1,[C:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[N:3]([H:8])[C:4]([O:6][H:7])=[C:5]1[H:10]>>[C:1](=[C:2]([H:11])[H:13])([N:3]([C:4](=[C:5]([H:10])[H:12])[O:6][H:7])[H:8])[H:9],61.84639999997714
MR_95077_1,[C:1](/[C:3](=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:11])[H:10])([O:5][H:8])([O:6][H:7])[H:9]>>[C:1](=[C:3](/[C@:4]([C:2]([H:12])([H:13])[H:14])([O:5][H:8])[H:11])[H:10])(\[O:6][H:7])[H:9],59.83400750002858
MR_614431_2,[C:1](\[O:5][C:2]([N:3]([H:9])[H:10])=[C:4]([H:12])[H:13])([O:6][H:8])=[N:7]/[H:11]>>[C:1](=[O:5])([O:6][H:8])[N:7]([C:2]([N:3]([H:9])[H:10])=[C:4]([H:12])[H:13])[H:11],39.04995249999814
